// Generated for: spectre
// Generated on: Mar 16 09:04:15 2026
// Design library name: VGA
// Design cell name: VGA_IDEAL
// Design view name: schematic
simulator lang=spectre
global 0
include "/opt/pdk/ams/410/spectre/c35/soac/soac.scs"
include "/opt/pdk/ams/410/spectre/c35/soac/processOption.scs"
include "/opt/pdk/ams/410/spectre/c35/soac/cmos53.scs" section=cmostm
include "/opt/pdk/ams/410/spectre/c35/soac/res.scs" section=restm
include "/opt/pdk/ams/410/spectre/c35/soac/cap.scs" section=captm
include "/opt/pdk/ams/410/spectre/c35/soac/bip.scs" section=biptm
include "/opt/pdk/ams/410/spectre/c35/soac/ind.scs" section=indtm
include "/opt/pdk/ams/410/spectre/c35/soac/esddiode.scs" section=esddiodetm

// Library name: VGA
// Cell name: VGA_IDEAL
// View name: schematic
I7 (net4 net1) isource dc=1 type=sine
MP2 (net4 0 net3 VDD) modp w=10u l=4u as=5.7e-12 ad=5e-12 ps=3.14u pd=1u \
        nrd=0.05 nrs=0.05 ng=10
MP1 (net1 vin net3 VDD) modp w=10u l=4u as=5.7e-12 ad=5e-12 ps=3.14u pd=1u \
        nrd=0.05 nrs=0.05 ng=10
C2 (vin out) capacitor c=500f
C1 (vin 0) capacitor c=39.5p
C0 (out 0) capacitor c=150f
V1 (vin 0) vsource dc=0 mag=1 type=pulse val0=0 val1=3.3 period=1u delay=0 \
        rise=1n fall=1n width=500.0n
MN3 (out net3 0 0) modn w=5u l=1u as=4.25e-12 ad=2.5e-12 ps=6.7u pd=1u \
        nrd=0.1 nrs=0.1 ng=2
V0 (VDD 0) vsource dc=3.3 type=dc
simulatorOptions options psfversion="1.4.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf enable_pre_ver=yes ignorezerovar=yes 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
tran tran stop=500u errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
ac ac start=0.01 stop=10G annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
